US08426420B2
i) Pyrrolidine-1,3-dicarboxylic acid 3-benzyl ester 1-tert-butyl ester
To a solution of 1.00 g Boc-1-pyrrolidine-3-carboxylic acid in 10 ml toluene were added 0.61 ml benzyl bromide and 0.76 ml DBU. After stirring for 12 h the reaction mixture was washed with water and the crude product obtained after evaporation of the solvent was purified by flash chromatography on silica using ethyl acetate/heptane 1:3 as eluent.

reactant | Boc-1-pyrrolidine-3-carboxylic acid | 1.00 g | CC(C)(C)OC(=O)N1CCC(C1)C(=O)O | C10H17NO4
reactant | benzyl bromide | 0.61 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DBU | 0.76 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Pyrrolidine-1,3-dicarboxylic acid 3-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)OCC1=CC=CC=C1 | C17H23NO4
